US06331640B1
A mixture of N-[4-(azidomethyl)-2-chlorobenzoyl]-3-(benzoylamino)-L-alanine, methyl ester (4.34 g, 10.4 mmol) and 10% palladium on carbon (0.20 g, 0.2 mmol) in ethanol (200 mL) was hydrogenated at atmospheric pressure for 1 h. The mixture was filtered through Celite and the filter cake was washed with ethanol (100 mL). The combined filtrates were evaporated to give N-[4-(aminomethyl)-2-chlorobenzoyl]-3-benzoylamino-L-alanine, methyl ester (3.65 g, 90%) as a colorless foam.

reactant | N-[4-(azidomethyl)-2-chlorobenzoyl]-3-(benzoylamino)-L-alanine, methyl ester | 10.4 mmol, 4.34 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)N[C@@H](CNC(C2=CC=CC=C2)=O)C(=O)OC)C=C1)Cl | C19H18ClN5O4
catalyst | palladium on carbon | 0.2 mmol, 0.20 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-[4-(aminomethyl)-2-chlorobenzoyl]-3-benzoylamino-L-alanine, methyl ester | 3.65 g, 90% | NCC1=CC(=C(C(=O)N[C@@H](CNC(C2=CC=CC=C2)=O)C(=O)OC)C=C1)Cl | C19H20ClN3O4
